### PR TITLE
Cleanup `CondFDiv.lean`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Fix the problem of having to state two `CountableOrCountablyGenerated` hypotheses (`[CountableOrCountablyGenerated (α × β) γ]
    [CountableOrCountablyGenerated β γ]`), when only one would suffice (`[CountableOrCountablyGenerated (α × β) γ]`). 

- Add `condFDiv_isEmpty_left`
- Add file `Integrable_of_empty.lean`
- Cleanup

Depends on #52

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Can you please merge master into this branch?

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 1]
```diff
@@ -471,6 +472,13 @@ lemma condFDiv_zero_measure : condFDiv f κ η 0 = 0 := by
   rw [condFDiv_eq' hf_ae integrable_zero_measure]
   simp only [integral_zero_measure, EReal.coe_zero]
 
+@[simp]
+lemma condFDiv_isEmpty_left [IsEmpty α] : condFDiv f κ η μ = 0 := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: If the `right` version of that lemma makes no sense, consider removing the `left` form the name. Also you should add an `_of_`:
```suggestion
lemma condFDiv_of_isEmpty_left [IsEmpty α] : condFDiv f κ η μ = 0 := by
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 2]
```diff
@@ -471,6 +472,13 @@ lemma condFDiv_zero_measure : condFDiv f κ η 0 = 0 := by
...
+  have h : μ = 0 := by
+    ext s
+    exact Set.eq_empty_of_isEmpty s ▸ measure_empty
+  exact h ▸ condFDiv_zero_measure
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: It does not make much of a difference, but the proof is perhaps slightly better that way:
```suggestion
  suffices μ = 0 from this ▸ condFDiv_zero_measure
  ext s
  exact Set.eq_empty_of_isEmpty s ▸ measure_empty
```

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean [hunk 3]
```diff
@@ -0,0 +1,27 @@
...
+
+open Real MeasureTheory Filter MeasurableSpace
+open scoped ENNReal NNReal Topology BigOperators
+
+--TODO: put this in mathlib, maybe just after:
+#check Integrable.of_finite
+
+@[simp]
+lemma Integrable.of_empty {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β] [IsEmpty α]
+    (f : α → β) (μ : Measure α) : Integrable f μ := Integrable.of_finite μ f
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: Is this really useful, since `Integrable.of_finite` exists? I guess this is more discoverable.
We can keep it, but the name should use `isEmpty`, not `empty`:
```suggestion
@[simp]
lemma Integrable.of_isEmpty {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β]
    [IsEmpty α] (f : α → β) (μ : Measure α) :
    Integrable f μ := Integrable.of_finite μ f
```

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean [hunk 4]
```diff
@@ -0,0 +1,27 @@
...
+
+@[simp]
+lemma Integrable.of_empty_codomain {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β] [IsEmpty β]
+    {f : α → β} {μ : Measure α} : Integrable f μ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: The name should use `isEmpty`:
```suggestion
lemma Integrable.of_isEmpty_codomain {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β]
    [IsEmpty β] {f : α → β} {μ : Measure α} : Integrable f μ := by
```

Comment (RemyDegenne) [reply TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: Also why are the arguments of this one implicit, while `Integrable.of_isEmpty` has explicit arguments?

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean (hunk 3 above)
Comment (RemyDegenne) [reply TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: Also since `Integrable` is in fact `MeasureTheory.Integrable`, you should put those lemmas in the `MeasureTheory` namespace.

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean [hunk 5]
```diff
@@ -0,0 +1,27 @@
+import Mathlib.MeasureTheory.Integral.Bochner
+
+open MeasureTheory
+
+open Real MeasureTheory Filter MeasurableSpace
+open scoped ENNReal NNReal Topology BigOperators
+
+--TODO: put this in mathlib, maybe just after:
+#check Integrable.of_finite
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: Please remove the two `#check` commands: it makes the build step of CI noisy and makes it harder to see actual warnings and errors.

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean [hunk 6]
```diff
@@ -0,0 +1,27 @@
...
+lemma Integrable.of_empty_codomain {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β] [IsEmpty β]
+    {f : α → β} {μ : Measure α} : Integrable f μ := by
+  have : IsEmpty α := f.isEmpty
+  exact Integrable.of_empty f μ
+
+--TODO: put this in mathlib, maybe just after:
+#check integral_eq_zero_of_ae
+
+@[simp]
+lemma MeasureTheory.integral_of_empty {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β]
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]:
```suggestion
lemma MeasureTheory.integral_of_isEmpty {α β : Type*} [MeasurableSpace α] [NormedAddCommGroup β]
```

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean [hunk 7]
```diff
@@ -0,0 +1,27 @@
...
+    [NormedSpace ℝ β] [IsEmpty α] (f : α → β) (μ : Measure α) : (∫ x, f x ∂μ) = 0 :=
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]:
```suggestion
    [NormedSpace ℝ β] [IsEmpty α] (f : α → β) (μ : Measure α) : ∫ x, f x ∂μ = 0 :=
```

File: TestingLowerBounds/FDiv/CondFDiv.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/FDiv/CondFDiv.lean]: I will add `right` version in a minute

File: TestingLowerBounds/ForMathlib/Integrable_of_empty.lean (hunk 4 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/Integrable_of_empty.lean]: Right, this was a mistake, I think they should all have explicit arguments

**Review by RemyDegenne — APPROVED** [review]
